US07435833B2
1-Cycloheptyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester
A solution of dimethyl itaconate (0.5 g, 3.16 mmoles), cycloheptylamine (0.357 g, 3.16 mmoles) in methanol (5 mL) was heated at 85° C. for eighteen hours. The solvent was evaporated in vacuo and the resulting crude product was purified by flash chromatography (hexanes/ethyl acetate 80:20 to 20:80) to give the title compound as a colorless oil.

reactant | dimethyl itaconate | 3.16 mmoles, 0.5 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | cycloheptylamine | 3.16 mmoles, 0.357 g | C1(CCCCCC1)N | C7H15N
solvent | methanol | 5 mL | CO | CH4O
product | 1-Cycloheptyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1CCCCCC1 | C13H21NO3
